US08486952B2
To a cooled solution of 2-amino-2-(4-fluorophenyl)acetic acid (1.0 g, 6.17 mmol) in ethanol was added con. H2SO4 (1 mL) over a period of 1 min. The reaction mixture was heated at reflux for 5 h. The solvent was evaporated under reduced pressure and the residue was diluted with ethyl acetate (20 mL). The organic solution was washed with aqueous saturated NaHCO3 (15 mL×2), water (20 mL), brine solution (10 mL), dried over anhydrous Na2SO4 and evaporated under reduced pressure to give ethyl 2-amino-2-(4-fluorophenyl)acetate (0.75 g, 65%) as crude compound (oily liquid). The crude compound was taken to the next step without further purification. LC-MS (M+H2O)+=198.0. 1H NMR (400 MHz, DMSO-d6): δ 7.44-7.40 (2H, m), 7.18-7.13 (2H, m), 4.51 (1H, s), 4.12-4.01 (2H, m), 2.26 (2H, s), 1.12 (3H, t, J=8.0 Hz).

reactant | 2-amino-2-(4-fluorophenyl)acetic acid | 6.17 mmol, 1.0 g | NC(C(=O)O)C1=CC=C(C=C1)F | C8H8FNO2
reactant | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | ethyl 2-amino-2-(4-fluorophenyl)acetate | 0.75 g, 65% | NC(C(=O)OCC)C1=CC=C(C=C1)F | C10H12FNO2
